US05730902
Preparation of (R)-4-(4-(trans-4-n-pentyl-4-silacyclohexyl)phenyl)-1-(2-fluorodecyloxy)-2,6-difluorobenzene
The general procedure of Example 1 was repeated using 4-(4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)phenyl) -2,6-difluorophenol and (S)-2-fluoro-1-decanol, thereby obtaining the intended compound.

reactant | 4-(4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)phenyl) -2,6-difluorophenol | C(CCCC)[Si]1(CCC(CC1)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)O)F)C1=CC=CC=C1 | C28H32F2OSi
reactant | (S)-2-fluoro-1-decanol | F[C@H](CO)CCCCCCCC | C10H21FO
product | (R)-4-(4-(trans-4-n-pentyl-4-silacyclohexyl)phenyl)-1-(2-fluorodecyloxy)-2,6-difluorobenzene | C(CCCC)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C(=C1)F)OC[C@@H](CCCCCCCC)F)F | C32H47F3OSi
